US05888421
Step 4.1 3-chloro-4-iodotoluene.
A stirred mixture of 2-chloromethylaniline (25.00 g, 0.177 mol) and 36% hydrochloric acid is warmed gently to obtain a solution, then cooled to -5° C. and a solution of sodium nitrite (13.45 g, 0.195 mol) in water is added dropwise whilst maintaining the temperature at -5° C. The mixture is stirred at 0° C. for 30 minutes, 100 ml of cyclohexane is added and a solution of potassium iodide (58.77 g, 0.354 mol) in water is added dropwise at a temperature of between 0° and 5° C. The mixture is stirred at room temperature (overnight for convenience) and the product is extracted into ether (×2). The combined organic extracts are washed with sodium metabisulphite, 10% sodium hydroxide, water and dried (MgSO4). The solvent is in vacuo to yield 35.0 g (87%) off-white solid.

reactant | 2-chloromethylaniline | 0.177 mol, 25.00 g | ClCC1=C(N)C=CC=C1 | C7H8ClN
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | 0.195 mol, 13.45 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 0.354 mol, 58.77 g | [I-].[K+]
solvent | water | O | H2O
solvent | cyclohexane | 100 ml | C1CCCCC1 | C6H12
product | 3-chloro-4-iodotoluene | 35.0 g, 87% | ClC=1C=C(C=CC1I)C | C7H6ClI
